US09403839B2
A mixture of 1-chloro-2-methyl-propan-2-ol (10 mL), 4-hydroxybenzonitrile (2 g, 16.8 mmol), K2CO3 (9.3 g, 67.3 mmol) in water (6 mL) and ethanol (60 mL) was heated at 80° C. for 16 hours. The reaction mixture was cooled and the solvent was concentrated in vacuo. The residue was diluted with ether (200 mL) and filtered and the filtrate was washed sequentially with water (50 mL) and brine solution (50 mL). The organics were separated and dried over MgSO4 and solvent was removed in vacuo to give a residue which was purified by silica gel column chromatography using (0-100%) EtOAc/DCM as eluent to give 4-(2-hydroxy-2-methyl-propoxy)benzonitrile (3.0 g, 94%) as a yellow solid. ESI-MS m/z calc. 191.1, found 192.3 (M+1)+; Retention time: 1.05 minutes (3 min run).

reactant | 1-chloro-2-methyl-propan-2-ol | 10 mL | ClCC(C)(O)C | C4H9ClO
reactant | 4-hydroxybenzonitrile | 16.8 mmol, 2 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | K2CO3 | 67.3 mmol, 9.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 6 mL | O | H2O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-(2-hydroxy-2-methyl-propoxy)benzonitrile | 3.0 g, 94% | OC(COC1=CC=C(C#N)C=C1)(C)C | C11H13NO2
